US08791108B2
To a solution of (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (300 mg, 0.613 mmol) and 4,4-dimethylpiperidine, HCl (138 mg, 0.920 mmol) in NMP (3 mL) was added DIEA (0.321 mL, 1.839 mmol) and the mixture was heated at 50° C. for 72 h. At this point LCMS indicated completion of reaction. Mixture was cooled to room temperature and purified by prep-HPLC to afford (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (220 mg, 0.464 mmol, 76% yield) as off-white solid. 1H NMR (500 MHz, CDCl3) δ 7.03 (s, 1H), 5.99 (s, 1H), 4.47 (q, J=7.1 Hz, 2H), 4.30-4.11 (m, 2H), 3.21-2.98 (m, 4H), 2.65 (s, 3H), 1.70-1.62 (m, 2H), 1.59-1.50 (m, 2H), 1.46 (t, J=7.1 Hz, 3H), 1.26 (s, 9H), 1.25-1.22 (m, 3H), 1.14 (s, 6H). LCMS (M+H)=475.2.

reactant | (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 0.613 mmol, 300 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C | C18H24IN3O5
reactant | DIEA | 1.839 mmol, 0.321 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 0.464 mmol, 220 mg, 76% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(C2)C(=O)OCC)C | C25H38N4O5
